US05688938
4-Methoxy-3-methylacetophenone [17P Precursor]
A mixture of 4'-hydroxy-3'-methylacetophenone (5.0 g, 33.3 mmol), iodomethane (5.7 g, 40.0. mmol), K2CO3 (granular, anhydrous) (23.0 g, 167 mmol), and acetone (250 mL) was refluxed for 3 hours. The reaction mixture was then cooled to room temperature, filtered to remove the inorganic salts, and evaporated under vacuum. The crude product was dissolved in ether (100 mL) and washed with H2O (2×20 mL). The organic layer was dried (Na2SO4) and evaporated to yield 4.5 g, 82.4% yield. The ketone was used in the following reaction without further purification.

reactant | 4'-hydroxy-3'-methylacetophenone | 33.3 mmol, 5.0 g | OC1=C(C=C(C=C1)C(C)=O)C | C9H10O2
reactant | iodomethane | 5.7 g | IC | CH3I
reactant | K2CO3 | 167 mmol, 23.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 4-Methoxy-3-methylacetophenone | 82.4% yield | CC1=C(C=CC(=C1)C(=O)C)OC | C10H12O2
